US08008488B2
15.1 1-(4-Chlorobutyl)-4-(trifluoromethyl)pyrimidin-2(1H)-one
4.6 g (28.3 mmol) of 2-hydroxy-4-trifluoromethylpyrimidine were stirred in 60 ml of N,N-dimethylformamide (DMF) and 3.9 g (28.3 mmol) of K2CO3 at room temperature for 1 hour. Then 4.9 g (28.3 mmol) of 1-bromo-4-chlorobutane were added dropwise, and the reaction mixture was stirred at room temperature for 6 hours. Water was then added to the reaction mixture, and the aqueous mixture was extracted with diethyl ether. The aqueous phase was made alkaline by adding NaOH, and the aqueous phase was extracted with methylene chloride. The organic phase was then dried, the desiccant was removed by filtration, and the solvent was evaporated to dryness in vacuo; yield: 1.7 g.

reactant | 2-hydroxy-4-trifluoromethylpyrimidine | 28.3 mmol, 4.6 g | OC1=NC=CC(=N1)C(F)(F)F | C5H3F3N2O
reactant | K2CO3 | 28.3 mmol, 3.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 28.3 mmol, 4.9 g | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chlorobutyl)-4-(trifluoromethyl)pyrimidin-2(1H)-one | ClCCCCN1C(N=C(C=C1)C(F)(F)F)=O | C9H10ClF3N2O
